data/mechanism_extracts/ChemSci/10.1039_D2SC04027A.json
{"doi": "10.1039_D2SC04027A", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical alkene sulfonation with inorganic sulfites and alcohols to form alkoxysulfonyl-functionalized products (sulfonate esters) via anodic generation of alkoxysulfonyl radicals", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic single-electron oxidation of inorganic sulfite (SO3^2- / HSO3-) to sulfite radical anion (SO3•-), which is trapped by alcohol to give alkoxysulfonyl radical ROSO2•; subsequent anodic oxidation of the C-radical adduct to a carbocation enables polar trapping by alcohol", "key_intermediates": [{"name": "sulfite radical anion (SO3•-)", "smiles": "[O-]S(=O)[O]", "role": "transient"}, {"name": "alkoxysulfonyl radical A (ROSO2•)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical B from addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation C (after anodic SET of B)", "smiles": null, "role": "reactive"}, {"name": "β-hydroxy carbon radical D (from addition to homoallyl/allyl alcohol 4)", "smiles": null, "role": "reactive"}, {"name": "migrated radical E (after radical functional group migration)", "smiles": null, "role": "transient"}, {"name": "cation F (after anodic oxidation of E)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes inorganic sulfite to SO3•-, which is captured by ROH to give an alkoxysulfonyl radical (ROSO2•). This radical adds to the alkene to give a C-radical, which is further oxidized at the anode to a carbocation; alcohol (or deprotonation) then delivers the sulfonate ester product, while the cathode reduces protons/ROH to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "methacryloyl-N-methylbenzamide (6) radical trap/cyclization probe", "smiles": "C=C(C)C(=O)N(C)c1ccccc1", "purpose": "intermediate_trap", "observation": "cyclized sulfonate ester 7 obtained in 18% yield, indicating an alkoxysulfonyl radical adds to the alkene and the resulting C-radical cyclizes"}, {"name": "cyclopropyl-substituted styrene (1bi) radical clock", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "ring-opened product 8 (15%) formed alongside difunctionalized 3bi (24%), supporting a radical addition intermediate"}, {"name": "trifluoromethyl-substituted styrene (1bj)", "smiles": "C=Cc1ccc(C(F)(F)F)cc1", "purpose": "intermediate_trap", "observation": "gave difunctionalized product 3bj (37%) and elimination alkene 9 (14%), consistent with cationic intermediate undergoing proton elimination"}, {"name": "enamide 1bk", "smiles": null, "purpose": "intermediate_trap", "observation": "afforded coupling sulfonate 10 in 84% yield, supporting cationic intermediate formed by anodic oxidation of radical adduct"}, {"name": "SO2 gas (CV probe)", "smiles": "O=S=O", "purpose": "redox_probe", "observation": "no oxidation peak in MeCN/MeOH, excluding oxidation of SO2 / alkyl sulfite as radical source"}, {"name": "NaHSO3 (CV probe)", "smiles": "OS(=O)[O-].[Na+]", "purpose": "redox_probe", "observation": "oxidation peak at 1.23 V vs SCE, lower than styrene 1a (1.80 V), indicating preferential anodic oxidation of inorganic sulfite"}, {"name": "Na2S2O5 (CV probe)", "smiles": null, "purpose": "redox_probe", "observation": "oxidation peak at 1.15 V vs SCE; alkene 4a showed no oxidation peak, supporting sulfite oxidation as initiation"}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "For homoallyl/allyl alcohol substrates 4, a radical functional group migration pathway (D → E → F → 5) is proposed in parallel to the direct radical–polar crossover route used for styrenes. CV experiments rule out direct SO2 or alkyl sulfite oxidation as the radical source."}
